.title exp keyword space before paren source smoke
V1 in 0 EXP (v1=0 v2=1m td1=1p tau1=0.5p td2=4p tau2=0.5p)
R1 in out 1
C1 out 0 1p
.tran 1p 6p
.end
